US08729102B2
B) tert-butyl [3-(6-chloropyridin-3-yl)-1-methyl-3-oxopropyl]carbamate
Using tert-butyl {3-[methoxy(methyl)amino]-1-methyl-3-oxopropyl}carbamate and 5-bromo-2-chloropyridine, and in the same manner as in Example 24, step E, the title compound was obtained.

reactant | tert-butyl {3-[methoxy(methyl)amino]-1-methyl-3-oxopropyl}carbamate | CON(C(CC(C)NC(OC(C)(C)C)=O)=O)C | C11H22N2O4
reactant | 5-bromo-2-chloropyridine | BrC=1C=CC(=NC1)Cl | C5H3BrClN
product | tert-butyl [3-(6-chloropyridin-3-yl)-1-methyl-3-oxopropyl]carbamate | ClC1=CC=C(C=N1)C(CC(C)NC(OC(C)(C)C)=O)=O | C14H19ClN2O3
